US05977178
((1R)-2-(Benzo[b]thiophen-3-yl)-1-(methyl-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)ethyl)-methylcarbamic acid tert-butylester (0.89 g; 1.70 mmol) was dissolved in methylene chloride (3 mL) and trifluoroacetic acid (2 mL) was added. The reaction mixture was stirred for 45 min at room temperature. Water (5 mL) was added. Methylene chloride (5 mL), an aqueous solution of sodium hydrogen carbonate (saturated) and sodium hydrogen carbonate (solid) was added until pH 8. The aqueous phase was extracted with methylene chloride (3×10 mL). The combined organic phases were dried (magnesium sulfate) and evaporated in vacuo to afford 0.66 g of (2R)-3-(Benzo[b]thiophen-3-yl)-N-methyl-2-methylamino-N-((1R)-1-methylcarbamoyl-2-phenylethyl)propionamide.

reactant | ((1R)-2-(Benzo[b]thiophen-3-yl)-1-(methyl-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)ethyl)-methylcarbamic acid tert-butylester | 1.70 mmol, 0.89 g | C(C)(C)(C)OC(N(C)[C@H](CC=1C2=C(SC1)C=CC=C2)C(N([C@H](CC2=CC=CC=C2)C(NC)=O)C)=O)=O | C28H35N3O4S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 5 mL | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R)-3-(Benzo[b]thiophen-3-yl)-N-methyl-2-methylamino-N-((1R)-1-methylcarbamoyl-2-phenylethyl)propionamide | 0.66 g | S1C2=C(C(=C1)C[C@H](C(=O)N([C@H](CC1=CC=CC=C1)C(NC)=O)C)NC)C=CC=C2 | C23H27N3O2S
